US07897621B2
a) 5-Bromo-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinic acid ethyl ester
The title compound was synthesized in analogy to Example 1a, using 5-bromo-1,6-dihydro-6-oxo-2-(trifluoromethyl)-3-pyridinecarboxylic acid ethyl ester (CAS Registry No. 862111-61-3) and 2-(hydroxymethyl)-pyridine as starting materials, MS (ISP) 407.1 (M+H)+.

reactant | 5-bromo-1,6-dihydro-6-oxo-2-(trifluoromethyl)-3-pyridinecarboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC(C(=C1)Br)=O)C(F)(F)F | C9H7BrF3NO3
reactant | 2-(hydroxymethyl)-pyridine | OCC1=NC=CC=C1 | C6H7NO
product | 5-Bromo-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C(=C1)Br)OCC1=NC=CC=C1)C(F)(F)F)=O | C15H12BrF3N2O3
